2166-05-12 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2166-5-11**] 11:14 PM
 EKG - At [**2166-5-11**] 11:56 PM
 PICC LINE - START [**2166-5-12**] 02:48 AM
 SHEATH - START [**2166-5-12**] 02:51 AM right groin arterial sheath
   Pt received 10 mg IVP Diliazem x 1 no change in HR, pt started on
   Esmolol gtt @ 50 mcg/kg/min, pt become hypotensive on Esmolol gtt.
   Pt continues on Neo gtt (was originally on Levophed
 but HR elevated
   to 160
s afib).  Pt started on vasopressin 2.4 units/hr.    bp
   100-120/60   HR~100 Afib to SR
   C-Diff: pt on contact precautions
   Received 4 liters IVF,    CVP ~ 17
   Pt placed on Fentanyl gtt @ 100 mcg/hr,   Versed gtt at 2 mg/hr.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-12**] 02:21 AM
   Vancomycin - [**2166-5-12**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2166-5-12**] 12:23 AM
   Pantoprazole (Protonix) - [**2166-5-12**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-12**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 100 (100 - 138) bpm
   BP: 122/50(71) {103/48(65) - 122/52(71)} mmHg
   RR: 25 (21 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 22 (22 - 22)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  1,004 mL
                                                                  5,958 mL
   PO:
   TF:
   IVF:
                                                                  1,004 mL
                                                                  4,338 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    555 mL
   Urine:
                                                                    100 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                      5 mL
   Balance:
                                                                  1,004 mL
                                                                  5,403 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.39/29/106/19/-5
   Ve: 13.8 L/min
   PaO2 / FiO2: 177
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   471 K/uL
   8.4 g/dL
   127 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.7 mEq/L
   40 mg/dL
   112 mEq/L
   140 mEq/L
   27.5 %
   34.1 K/uL
        [image002.jpg]
                             [**2166-5-11**]  10:50 PM
                             [**2166-5-11**]  10:58 PM
                             [**2166-5-12**]  01:07 AM
                             [**2166-5-12**]  02:04 AM
                             [**2166-5-12**]  02:16 AM
                             [**2166-5-12**]  05:55 AM
                             [**2166-5-12**]  06:00 AM
   WBC
   34.1
   Hct
   29.7
   27.7
   22
   27.5
   Plt
   427
   471
   Cr
   1.4
   1.4
   TropT
   <0.01
   TCO2
   21
   19
   17
   18
   Glucose
   177
   163
   127
   Other labs: PT / PTT / INR:17.9/36.0/1.6, CK / CKMB /
   Troponin-T:25/1/<0.01, ALT / AST:[**12-26**], Alk Phos / T Bili:114/0.9,
   Amylase / Lipase:/631, Lactic Acid:2.5 mmol/L, Albumin:1.8 g/dL,
   LDH:350 IU/L, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   The patient is an 83 y/o male with history of BPH was transferred from
   an OSH for evaluation of pancreatitis. Evaluation was notable for large
   pancreatic pseudocyst with multiple intra-abdominal fluid collections
   thought related to his pseudocyst. His course is complicated by GDA
   pseudoanyeurism hemorrhage into a pseudocyst, requiring IR guided
   embolization.
   .
   # PEA arrest:  Unclear precipitant.  No hypoglycemia on the scene, and
   no e/o hypo/hyperkalemia.  EKG w/o evidence of ACS, cardiac markers
   pending.  the patient was noted to be [**Last Name (LF) 12547**], [**First Name3 (LF) **] should consider
   PE.  No right heart strain on EKG.  The patient was noted noted to be
   hypoxic leading up to the event.  Must also consider more active bleed
   from pseudoaneurism.  Potential for aspiration as precipitating event
   as well
   -- continue intubation for airway protection and ween as tolerated
   -- fentanyl/midaz given active pancratic issues
   -- levophed for pressure support, IVF, ween pressures as tolerated
   -- TTE in am
   - LENIS for DVT/PE r/o
   -- if have difficulty with oxygenation, will consider CTA for PE
   -- trend hct for e/o of active bleed
   -- CXR
   # Arterial epinephrine:  dopplerable pulse.  Warm and well perfused.
   Continue to monitor.
   .
   # Pancreatititis, Pancreatic Pseudocysts, Intra-abdominal fluid
   Collections:
   On ERCP, patient was found to have bile duct filling defect, suggestive
   of external compression. He underwent follow-up EUS which revealed a
   large pancreatic pseudocyst. CTA Pancreas was also performed, which
   confirmed the large pseudocysts but also noted multiple large abdominal
   fluid collections. He was evaluated by general surgery, who thought his
   abdominal process of pancreatic pseudocyst and associated inflammation
   was relatively immature, and that surgical intervention or drainage at
   this time was not indicated. They recommended that the patient continue
   to be NPO, continue nutrition with TPN, and then follow-up in [**5-6**] weeks
   with repeat imaging and clinic follow-up for consideration of surgical
   intervention at that time..
   Patient now with rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression.  Given hemmorhage into
   pseudocyst, may very well be reactive inflammation from hemorrhage.  CT
   did not reveal necrotic component.  Now s/p IR guided embolization of
   GDA pseudoanyeurism bleed.
   .
   - cont vanc/zosyn
 likely switch to Imipenem/Cilastin
   - looks like ID c/s, f/u am recs
   - f/u pending blood and urine cultures.
   - f/u general surgery recs
   - trend hct, if precipitious drop, IR embolization this evening,
   otherwise will reassess stability in am.
   .
   # Clostridium difficile infection:
   Within 48 hours of admission, patient developed increased diarrhea and
   marked leukocytosis from 17 to 26. He was C. diff positive and started
   on flagyl on [**2166-5-7**] with improvement in his diarrhea. He was initially
   stated on flagyl, but started on PO vanc on the day of ICU transfer.
   - cont PO vanc and cont for until has completed other antibiotics then
   for an additional 14d.
   .
   # Atrial Fibrillation
   Patient was diagnosed with atrial fibrillation at the OSH and was
   started on diltiazem before being transitioned to amiodarone. Upon
   transfer to [**Hospital1 5**], his PICC line was noted to be advanced into the
   right atrium, and it was thought that this may have been triggering his
   atrial fibrillation. During his hospitalization at [**Hospital1 5**], he remained
   in sinus rhythm and with excellent rate control. His chart says that
   his amioderone was discontinued, but currently ordered.
   - cont amioderone at 400mg [**Hospital1 **] and clarify plan with primary team
   - while had a CHADS score of 3, hold anticoagulation in the setting of
   active bleed.
   - TTE in am
   .
   # Acute Renal Failure
   During his admission at the OSH, his creatinine was as high as 1.9 and
   then remained stable between .[**8-31**].  Creatining started trending up in
   the last 24hrs, and was given one dose of lasix on the floor, with Cr
   rise to 1.2.  He was given mucomyst and NaHCO3 with the anticipation of
   contrast from IR procedure.  Given that patinet was pulsesless for 10
   minutes, potential for ATN.
   - avoid nephrotoxic meds
   - cont mucomyst
   - trend creatinine.
   .
   # Hyperglycemia
   He was started on insulin during his hospitalization at [**Hospital3 1011**] and was continued on insulin during his hospitalization at
   [**Hospital1 5**]. [**Month (only) 8**] be the result of pancreatic insufficiency with pancreatitis
   vs. a new diagnosis of DM.
   - cont HISS
   - check Hbg A1c
   - adjust insulin in TPN
   .
   # Hepatic Cirrhosis
   Imaging from abdominal CT and MRCP revealed hepatic cirrhosis, although
   patient has no history of this in the past. The hepatology team was
   consulted, and the felt no evidence of hepatic cirrhosis.  They
   recommended a liver biopsy, but overall felt that ascites more
   secondary to pancreatitis.  Hepatitis serologies were sent and were
   unremarkable.
   .
   # Family Contact
   Patient's family contact is the patient's niece [**Name (NI) 12548**] [**Name (NI) 12549**]. Her
   home number is ([**Telephone/Fax (1) 12550**]; work number is ([**Telephone/Fax (1) 12551**]; cell number
   is ([**Telephone/Fax (1) 12552**]..
   .
   FEN: IVF, replete electrolytes, NPO
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripheral and PICC
   .
   Code:  Full
   .
   Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Sheath - [**2166-5-12**] 02:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-05-12 09:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure (s/p cardiac arrest)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Neurologically somnulant, but opens eyes, moves hands and feet to
   command.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-12**] 02:21 AM
   Vancomycin - [**2166-5-12**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 4.2 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2166-5-12**] 12:23 AM
   Pantoprazole (Protonix) - [**2166-5-12**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-5-12**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 97 (97 - 138) bpm
   BP: 120/48(69) {103/48(65) - 122/52(71)} mmHg
   RR: 25 (21 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 22 (22 - 22)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  1,004 mL
                                                                  6,037 mL
   PO:
   TF:
   IVF:
                                                                  1,004 mL
                                                                  4,417 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    555 mL
   Urine:
                                                                    100 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                      5 mL
   Balance:
                                                                  1,004 mL
                                                                  5,482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.34/37/131/19/-5
   Ve: 6.9 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Anasarca
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Adb wall edema, firm abd, tympany
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Opens eyes to loud voice
   Labs / Radiology
   8.4 g/dL
   471 K/uL
   127 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.7 mEq/L
   40 mg/dL
   112 mEq/L
   140 mEq/L
   27.5 %
   36.7 K/uL
        [image002.jpg]
                             [**2166-5-11**]  10:50 PM
                             [**2166-5-11**]  10:58 PM
                             [**2166-5-12**]  01:07 AM
                             [**2166-5-12**]  02:04 AM
                             [**2166-5-12**]  02:16 AM
                             [**2166-5-12**]  05:55 AM
                             [**2166-5-12**]  06:00 AM
                             [**2166-5-12**]  08:35 AM
   WBC
   34.1
   36.7
   Hct
   29.7
   27.7
   22
   27.5
   Plt
   427
   471
   Cr
   1.4
   1.4
   TropT
   <0.01
   TCO2
   21
   19
   17
   18
   21
   Glucose
   177
   163
   127
   Other labs: PT / PTT / INR:18.2/36.3/1.7, CK / CKMB /
   Troponin-T:25/1/<0.01, ALT / AST:[**12-26**], Alk Phos / T Bili:114/0.9,
   Amylase / Lipase:/505, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:1.8 g/dL,
   LDH:350 IU/L, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   83 yom pancreatitis -->  large pancreatic pseudocyst with multiple
   intra-abdominal fluid collections (?related to pseudocyst) -->
   gastroduodenal artery pseudoanyeurism hemorrhage into a pseudocyst, now
   s/p cardiac arrest (?PEA).
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.
   Hypoxemia prior to event.  Radiographic evidence for LLL density
   (atalectasis vs. pneumonia).   Plan continue mechanical ventiation,
   monitor ABG, SaO2, mechanics, CXR.
   s/p PEA ARREST -- Unclear precipitant, but concerns include hypoxemia
   (preceeding event), aspiration, or hypovolemia (possible further bleed
   into pseudoaneurysm, 3rd spacing).  Pulmonary embolism possible,
   although no ECG changes (no right heart strain on EKG).   No cooling
   initiated because of active bleeding (and concerns for worsening
   bleeding if cooled).  Neurologically responsive this AM.  Continue to
   monitor VS.  Check cardiac echo, assess for pulmonary embolism (LE
   NIVS)
   HYPOTENSION -- attributed to hypovolemia, possible increased blood
   loss, possible sepsis.  Monitor BP, maintain MAP > 60 mmHg.
   ARTERIAL ADMINISTRATION of EPINEPHRINE -- occured during Code.  Right
   leg with preserved pulses, warm and well perfused.  No apparent
   clinical consequences.  Continue to monitor.
   PANCREATITIS -- c/b  Pancreatic Pseudocysts, Intra-abdominal fluid
   Collections.   General Surgery recommended that the patient continue to
   be NPO, continue nutrition with TPN, and then follow-up in [**5-6**] weeks
   with repeat imaging and clinic follow-up for consideration of surgical
   intervention at that time.
   STAPH EPI BACTERIMIA -- suspect line-related.  Continue Vanco.
   PSEUDOCYST -- Rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression, with bleeding.   Continue
   vanc/zosyn.  ID consulted.
   C. DIFF COLITIS --  Continue PO vanc for an additional 14days
   (?) HEPATIC CIRRHOSIS -- suggested by CT and MRCP imaging.  Hepatology
   team impression that no evidence of hepatic cirrhosis.  They
   recommended a liver biopsy, but overall felt that ascites more
   secondary to pancreatitis.  Hepatitis serologies were sent and were
   unremarkable.
   NUTRITIONAL SUPPORT -- TPN.
   A-FIB -- new recent problem, plan monitor HR.
   ACUTE RENAL FAILURE -- anuric renal failure, in context of
   arrest/code.  At risk for ATN.  Monitor BUN, creatinine, uo.  Avoid
   nephrotoxic meds, mucomyst.
   HYPERGLYCEMIA -- Likely related to pancreatitis complications.
   Continue insulin.
   FLUIDS -- maintain CVP >12.   Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Sheath - [**2166-5-12**] 02:51 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Family meeting, including neices and nephews.  Updated medical
   condition.  Answered all questions.  Understand patient critically ill,
   guarded condition.  Will need to review progress over next 12 -24 hrs.
   Plan to update family on daily basis.  FULL CODE.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2166-5-12**] 16:54 ------

2166-05-13 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2166-5-12**] 09:38 AM
 EKG - At [**2166-5-12**] 10:00 AM
 SHEATH - STOP [**2166-5-12**] 11:00 AM right groin arterial sheath
 ULTRASOUND - At [**2166-5-12**] 01:12 PM at bedside to r/o DVT
 ARTERIAL LINE - START [**2166-5-12**] 04:55 PM
 FEVER - 102.2
F - [**2166-5-12**] 08:00 PM
   - CXR - New venous congestion, continued small effusions
   - TTE - technically inadequate - EF > 50%
   - Aline started
   - Hypotensive - bolusing and uptitrating Neo; Lactate 2.2 from 2.5
   - started levophed at 1745
   - Started Meropenem for better biliary coverage
   - LENIs WET READ no DVT
   - started in post-arrest steroid vs. placebo study
   - Urine
 Yeast. Bcx staph coag neg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2166-5-12**] 10:00 PM
   Meropenem - [**2166-5-13**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2166-5-12**] 09:45 AM
   Pantoprazole (Protonix) - [**2166-5-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-13**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 39
C (102.2
   Tcurrent: 37.5
C (99.5
   HR: 90 (90 - 110) bpm
   BP: 110/48(69) {81/44(57) - 122/51(71)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 18 (15 - 25)mmHg
   Bladder pressure: 17 (11 - 17) mmHg
   Total In:
                                                                 10,349 mL
                                                                  1,494 mL
   PO:
   TF:
   IVF:
                                                                  7,612 mL
                                                                    604 mL
   Blood products:
                                                                    292 mL
   Total out:
                                                                  1,325 mL
                                                                    315 mL
   Urine:
                                                                    270 mL
                                                                     15 mL
   NG:
                                                                    800 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                      5 mL
   Balance:
                                                                  9,024 mL
                                                                  1,179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 283 (283 - 373) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.19/46/113/19/-10
   Ve: 9.7 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   349 K/uL
   7.4 g/dL
   353 mg/dL
   2.7 mg/dL
   19 mEq/L
   5.5 mEq/L
   52 mg/dL
   110 mEq/L
   138 mEq/L
   25.3 %
   25.3 K/uL
        [image002.jpg]
                             [**2166-5-12**]  06:00 AM
                             [**2166-5-12**]  08:35 AM
                             [**2166-5-12**]  11:13 AM
                             [**2166-5-12**]  03:52 PM
                             [**2166-5-12**]  05:08 PM
                             [**2166-5-12**]  05:23 PM
                             [**2166-5-12**]  11:52 PM
                             [**2166-5-13**]  03:32 AM
                             [**2166-5-13**]  03:44 AM
                             [**2166-5-13**]  05:02 AM
   WBC
   36.7
   25.3
   Hct
   27.5
   25.0
   25.5
   25.4
   25.0
   25.3
   Plt
   471
   349
   Cr
   1.4
   2.1
   2.7
   TropT
   0.02
   TCO2
   21
   20
   20
   18
   Glucose
   127
   89
   353
   Other labs: PT / PTT / INR:19.1/39.1/1.7, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:[**12-20**], Alk Phos / T Bili:88/0.7,
   Amylase / Lipase:/289, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:1.8 g/dL,
   LDH:275 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:6.0 mg/dL
   TTE: Left ventricular wall thickness, cavity size, and global systolic
   function are normal (LVEF>55%). Due to suboptimal technical quality, a
   focal wall motion abnormality cannot be fully excluded. Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve is not well seen. There is no aortic valve stenosis. The mitral
   valve leaflets are not well seen. No mitral regurgitation is seen
   (cannot be fully excluded due to poor image quality). There is no
   pericardial effusion.
   IMPRESSION: Technically suboptimal study. Normal global biventricular
   cavity size and systolic function.
   Assessment and Plan
   The patient is an 83 y/o male with history of BPH was transferred from
   an OSH for evaluation of pancreatitis. Evaluation was notable for large
   pancreatic pseudocyst with multiple intra-abdominal fluid collections
   thought related to his pseudocyst. His course is complicated by GDA
   pseudoanyeurism hemorrhage into a pseudocyst, requiring IR guided
   embolization.
   .
   # PEA arrest:  Unclear precipitant.  No hypoglycemia on the scene, and
   no e/o hypo/hyperkalemia.  EKG w/o evidence of ACS, cardiac markers
   pending.  the patient was noted to be [**Last Name (LF) 12547**], [**First Name3 (LF) **] should consider
   PE.  No right heart strain on EKG.  The patient was noted noted to be
   hypoxic leading up to the event.  Must also consider more active bleed
   from pseudoaneurism.  Potential for aspiration as precipitating event
   as well.  TTE and LENIS were negative.   Unable to wean pressors, on
   steroid trial.
   -- continue intubation for airway protection and wean as tolerated
   -- fentanyl/midaz given active pancreatic issues
   -- levophed for pressure support, IVF, wean pressors as tolerated
   -- if have difficulty with oxygenation, will consider CTA for PE
   -- trend hct for e/o of active bleed
   # Arterial epinephrine:  dopplerable pulse.  Warm and well perfused.
   Continue to monitor.
   .
   # Pancreatititis, Pancreatic Pseudocysts, Intra-abdominal fluid
   Collections:
   On ERCP, patient was found to have bile duct filling defect, suggestive
   of external compression. He underwent follow-up EUS which revealed a
   large pancreatic pseudocyst. CTA Pancreas was also performed, which
   confirmed the large pseudocysts but also noted multiple large abdominal
   fluid collections. He was evaluated by general surgery, who thought his
   abdominal process of pancreatic pseudocyst and associated inflammation
   was relatively immature, and that surgical intervention or drainage at
   this time was not indicated. They recommended that the patient continue
   to be NPO, continue nutrition with TPN, and then follow-up in [**5-6**] weeks
   with repeat imaging and clinic follow-up for consideration of surgical
   intervention at that time..
   Patient now with rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression.  Given hemmorhage into
   pseudocyst, may very well be reactive inflammation from hemorrhage.  CT
   did not reveal necrotic component.  Now s/p IR guided embolization of
   GDA pseudoanyeurism bleed.
   - cont vanc/zosyn
 likely switch to Imipenem/Cilastin
   - looks like ID c/s, f/u am recs
   - f/u pending blood and urine cultures.
   - f/u general surgery recs
   - trend hct, if precipitious drop, urgent IR embolization, otherwise
   just trend
   .
   # Clostridium difficile infection:
   Within 48 hours of admission, patient developed increased diarrhea and
   marked leukocytosis from 17 to 26. He was C. diff positive and started
   on flagyl on [**2166-5-7**] with improvement in his diarrhea. He was initially
   stated on flagyl, but started on PO vanc on the day of ICU transfer.
   - cont PO vanc and cont for until has completed other antibiotics then
   for an additional 14d.
   .
   # Atrial Fibrillation
   Patient was diagnosed with atrial fibrillation at the OSH and was
   started on diltiazem before being transitioned to amiodarone. Upon
   transfer to [**Hospital1 5**], his PICC line was noted to be advanced into the
   right atrium, and it was thought that this may have been triggering his
   atrial fibrillation. During his hospitalization at [**Hospital1 5**], he remained
   in sinus rhythm and with excellent rate control. His chart says that
   his amioderone was discontinued, but currently ordered.
   - cont amioderone at 400mg [**Hospital1 **] and clarify plan with primary team
   - while had a CHADS score of 3, hold anticoagulation in the setting of
   active bleed.
   .
   # Acute Renal Failure
   During his admission at the OSH, his creatinine was as high as 1.9 and
   then remained stable between .[**8-31**].  Creatining started trending up in
   the last 24hrs, and was given one dose of lasix on the floor, with Cr
   rise to 1.2.  He was given mucomyst and NaHCO3 with the anticipation of
   contrast from IR procedure.  Given that patient was pulsesless for 10
   minutes, potential for ATN.
   - avoid nephrotoxic meds
   - cont mucomyst
   - trend creatinine.
   - urine lytes with eosinophils
   .
   # Hyperglycemia
   He was started on insulin during his hospitalization at [**Hospital3 1011**] and was continued on insulin during his hospitalization at
   [**Hospital1 5**]. [**Month (only) 8**] be the result of pancreatic insufficiency with pancreatitis
   vs. a new diagnosis of DM.
   - cont HISS
   - check Hbg A1c
   - adjust insulin in TPN
   .
   # Hepatic Cirrhosis
   Imaging from abdominal CT and MRCP revealed hepatic cirrhosis, although
   patient has no history of this in the past. The hepatology team was
   consulted, and the felt no evidence of hepatic cirrhosis.  They
   recommended a liver biopsy, but overall felt that ascites more
   secondary to pancreatitis.  Hepatitis serologies were sent and were
   unremarkable.
   .
   # Family Contact
   Patient's family contact is the patient's niece [**Name (NI) 12548**] [**Name (NI) 12549**]. Her
   home number is ([**Telephone/Fax (1) 12550**]; work number is ([**Telephone/Fax (1) 12551**]; cell number
   is ([**Telephone/Fax (1) 12552**]..
   .
   FEN: IVF, replete electrolytes, NPO
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripheral and PICC
   .
   Code:  Full
   .
   Disposition: ICU for now
 PANCREATITIS, ACUTE
 PANCREATIC PSEUDOCYST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERATION IN NUTRITION
 ANEURYSM, OTHER
 ATRIAL FIBRILLATION (AFIB)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2166-5-12**] 06:30 PM 128 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-12**] 04:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-05-13 11:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, s/p cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on 3 vasopressors.
   Neurologically unresponsive (remains off vasopressors)
   Markedly low urine output.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-12**] 06:00 PM
   Vancomycin - [**2166-5-12**] 10:00 PM
   Meropenem - [**2166-5-13**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Phenylephrine - 5 mcg/Kg/min
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-5-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-5-13**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 39
C (102.2
   Tcurrent: 37.2
C (98.9
   HR: 90 (90 - 110) bpm
   BP: 117/49(71) {79/40(57) - 117/54(71)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 23 (15 - 25)mmHg
   Bladder pressure: 15 (11 - 17) mmHg
   Total In:
                                                                 10,349 mL
                                                                  2,218 mL
   PO:
   TF:
   IVF:
                                                                  7,612 mL
                                                                  1,062 mL
   Blood products:
                                                                    292 mL
   Total out:
                                                                  1,325 mL
                                                                    434 mL
   Urine:
                                                                    270 mL
                                                                     34 mL
   NG:
                                                                    800 mL
                                                                    400 mL
   Stool:
   Drains:
                                                                      5 mL
   Balance:
                                                                  9,024 mL
                                                                  1,784 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 283 (283 - 320) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.24/40/99.[**Numeric Identifier **]/19/-9
   Ve: 10.6 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese, Blanching erythema of lower abd wall
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   349 K/uL
   353 mg/dL
   2.7 mg/dL
   19 mEq/L
   5.5 mEq/L
   52 mg/dL
   110 mEq/L
   138 mEq/L
   25.3 %
   25.3 K/uL
        [image002.jpg]
                             [**2166-5-12**]  08:35 AM
                             [**2166-5-12**]  11:13 AM
                             [**2166-5-12**]  03:52 PM
                             [**2166-5-12**]  05:08 PM
                             [**2166-5-12**]  05:23 PM
                             [**2166-5-12**]  11:52 PM
                             [**2166-5-13**]  03:32 AM
                             [**2166-5-13**]  03:44 AM
                             [**2166-5-13**]  05:02 AM
                             [**2166-5-13**]  09:38 AM
   WBC
   25.3
   Hct
   25.0
   25.5
   25.4
   25.0
   25.3
   Plt
   349
   Cr
   2.1
   2.7
   TCO2
   21
   20
   20
   18
   18
   Glucose
   89
   353
   Other labs: PT / PTT / INR:19.1/39.1/1.7, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:[**12-20**], Alk Phos / T Bili:88/0.7,
   Amylase / Lipase:/289, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Albumin:1.8 g/dL,
   LDH:275 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   83 yom pancreatitis -->  large pancreatic pseudocyst with multiple
   intra-abdominal fluid collections (?related to pseudocyst) -->
   gastroduodenal artery pseudoanyeurism hemorrhage into a pseudocyst, now
   s/p cardiac arrest (?PEA).  Overall, worsening clinical status.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.
   Hypoxemia prior to event.  Radiographic evidence for LLL density
   (atalectasis vs. pneumonia).   Plan continue mechanical ventiation,
   monitor ABG, SaO2, mechanics, CXR.
   s/p PEA ARREST -- Unclear precipitant, but concerns include hypoxemia
   (preceeding event), aspiration, or hypovolemia (possible further bleed
   into pseudoaneurysm, 3rd spacing).  Pulmonary embolism possible,
   although no ECG changes (no right heart strain on EKG), LE NIVS without
   DVT and cardiac echo without evidence for RV strain.   No cooling
   initiated because of active bleeding (and concerns for worsening
   bleeding if cooled).  Neurologically responsive this AM.  Continue to
   monitor VS.
   HYPOTENSION -- attributed to sepsis, pancreatitis, and possible
   hypovolemia, and blood loss (less).  Monitor BP, maintain MAP > 60
   mmHg.
   ANEMIA -- attributed to bleeding of pseudoaneurysm into pseudocyst.
   Currently stable.
   ARTERIAL ADMINISTRATION of EPINEPHRINE -- occured during Code.  Right
   leg with preserved pulses, warm and well perfused.  No apparent
   clinical consequences.  Continue to monitor.
   PANCREATITIS -- c/b  Pancreatic Pseudocysts, multiple intra-abdominal
   fluid Collections.   General Surgery recommended that the patient
   continue to be NPO, continue nutrition with TPN, and then follow-up in
   [**5-6**] weeks with repeat imaging and clinic follow-up for consideration of
   surgical intervention at that time.
   STAPH EPI BACTERIMIA -- suspect line-related.  Continue Vanco.
   PSEUDOCYST -- Rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression, with bleeding.   Continue
   vanc/zosyn.  ID consult in progress.
   C. DIFF COLITIS --  Continue PO vanc for an additional 14 days.
   (?) HEPATIC CIRRHOSIS -- suggested by CT and MRCP imaging.  Hepatology
   team impression that no evidence of hepatic cirrhosis --> recommended a
   liver biopsy, but overall felt that ascites more secondary to
   pancreatitis.  Hepatitis serologies were sent and were unremarkable.
   ARTERIAL ADMINISTRATION of EPINEPHRINE -- occured during Code.  Right
   leg with preserved pulses, warm and well perfused.  No apparent
   clinical consequences.  Continue to monitor.
   NUTRITIONAL SUPPORT -- TPN.
   A-FIB -- new recent problem, plan monitor HR.
   ACUTE RENAL FAILURE -- anuric renal failure, in context of
   arrest/code.  At risk for ATN.  Monitor BUN, creatinine, uo.  Avoid
   nephrotoxic meds, mucomyst.
   HYPERGLYCEMIA -- Likely related to pancreatitis complications.
   Continue insulin.
   FLUIDS -- maintain CVP >12.   Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-12**] 04:55 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2166-05-14 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2166-5-14**] 12:00 AM
   - kayexalate this AM for elevated K+ (5.5 in AM)
   - Hct slowly downtrending all day, PM Hct was 22.2 so transfused 1u
   pRBC
   - Cr continues to steadily worsen (FeNa 1.44%, FeUrea 11%)
   - redosed vanc in PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-12**] 06:00 PM
   Meropenem - [**2166-5-14**] 12:58 AM
   Vancomycin - [**2166-5-14**] 12:58 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-5-14**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-14**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.7
   HR: 106 (78 - 116) bpm
   BP: 114/51(70) {79/40(60) - 125/54(75)} mmHg
   RR: 24 (24 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 128.9 kg (admission): 110 kg
   Height: 72 Inch
    CVP: 24 (19 - 25)mmHg
   Bladder pressure: 14 (14 - 16) mmHg
   Total In:
                                                                  3,441 mL
                                                                    829 mL
   PO:
   TF:
   IVF:
                                                                  2,226 mL
                                                                    449 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,059 mL
                                                                    555 mL
   Urine:
                                                                    109 mL
                                                                      5 mL
   NG:
                                                                    950 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  2,382 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.32/36/122/19/-6
   Ve: 11.4 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   263 K/uL
   7.6 g/dL
   200 mg/dL
   3.6 mg/dL
   19 mEq/L
   5.0 mEq/L
   66 mg/dL
   109 mEq/L
   137 mEq/L
   24.1 %
   19.3 K/uL
        [image002.jpg]
                             [**2166-5-12**]  05:23 PM
                             [**2166-5-12**]  11:52 PM
                             [**2166-5-13**]  03:32 AM
                             [**2166-5-13**]  03:44 AM
                             [**2166-5-13**]  05:02 AM
                             [**2166-5-13**]  09:38 AM
                             [**2166-5-13**]  02:44 PM
                             [**2166-5-13**]  02:56 PM
                             [**2166-5-13**]  09:28 PM
                             [**2166-5-14**]  04:28 AM
   WBC
   25.3
   19.3
   Hct
   25.0
   25.3
   23.8
   22.2
   24.1
   Plt
   349
   263
   Cr
   2.7
   3.0
   3.3
   3.6
   TCO2
   20
   20
   18
   18
   19
   Glucose
   353
   161
   195
   200
   Other labs: PT / PTT / INR:16.4/34.7/1.5, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:14/22, Alk Phos / T Bili:96/1.1,
   Amylase / Lipase:/116, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.8 g/dL,
   LDH:244 IU/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   The patient is an 83 y/o male with history of BPH was transferred from
   an OSH for evaluation of pancreatitis. Evaluation was notable for large
   pancreatic pseudocyst with multiple intra-abdominal fluid collections
   thought related to his pseudocyst. His course is complicated by GDA
   pseudoanyeurism hemorrhage into a pseudocyst, requiring IR guided
   embolization.
   .
   # PEA arrest:  Unclear precipitant.  No hypoglycemia on the scene, and
   no e/o hypo/hyperkalemia.  EKG w/o evidence of ACS, cardiac markers
   pending.  the patient was noted to be [**Last Name (LF) 12547**], [**First Name3 (LF) **] should consider
   PE.  No right heart strain on EKG.  The patient was noted noted to be
   hypoxic leading up to the event.  Must also consider more active bleed
   from pseudoaneurism.  Potential for aspiration as precipitating event
   as well.  TTE and LENIS were negative.   Unable to wean pressors, on
   steroid v placebo trial.
   -- continue intubation for airway protection and wean as tolerated
   -- fentanyl/midaz given active pancreatic issues
   -- IVF, wean pressors as tolerated
   -- trend hct for e/o of active bleed ([**Hospital1 **])
   .
   # Acute Renal Failure
   During his admission at the OSH, his creatinine was as high as 1.9 and
   then remained stable between .[**8-31**].  Creatining started trending up in
   the last 48hrs, and was given one dose of lasix on the floor, with Cr
   rise to 1.2.  He was given mucomyst and NaHCO3 with the anticipation of
   contrast from IR procedure.  Given that patient was pulsesless for 10
   minutes, potential for ATN.  Urine lytes consistent with intrarenal
   process, Eos negative but their NPV is ~ 16%. Worsening today,
   uptrending by 0.3 daily.
   - avoid nephrotoxic meds
 d/c
d vancomycin, checking levels, redose
   when < 15
   - trend creatinine.
   - family meeting about RRT and renal consult
   .
   # Pancreatititis, Pancreatic Pseudocysts, Intra-abdominal fluid
   Collections:
   On ERCP, patient was found to have bile duct filling defect, suggestive
   of external compression. He underwent follow-up EUS which revealed a
   large pancreatic pseudocyst. CTA Pancreas was also performed, which
   confirmed the large pseudocysts but also noted multiple large abdominal
   fluid collections. He was evaluated by general surgery, who thought his
   abdominal process of pancreatic pseudocyst and associated inflammation
   was relatively immature, and that surgical intervention or drainage at
   this time was not indicated. They recommended that the patient continue
   to be NPO, continue nutrition with TPN, and then follow-up in [**5-6**] weeks
   with repeat imaging and clinic follow-up for consideration of surgical
   intervention at that time..
   Patient now with rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression.  Given hemmorhage into
   pseudocyst, may very well be reactive inflammation from hemorrhage.  CT
   did not reveal necrotic component.  Now s/p IR guided embolization of
   GDA pseudoanyeurism bleed.
   - continue Meropenem
   - ID recs
   - f/u pending blood and urine cultures.
   - f/u general surgery recs
   - trend hct, if precipitious drop, urgent IR embolization, otherwise
   just trend
   .
   # Clostridium difficile infection:
   Within 48 hours of admission, patient developed increased diarrhea and
   marked leukocytosis from 17 to 26. He was C. diff positive and started
   on flagyl on [**2166-5-7**] with improvement in his diarrhea. He was initially
   stated on flagyl, but started on PO vanc on the day of ICU transfer.
   - cont vanc enemas and cont for until has completed other antibiotics
   then for an additional 14d.
   .
   # Atrial Fibrillation
   Patient was diagnosed with atrial fibrillation at the OSH and was
   started on diltiazem before being transitioned to amiodarone. Upon
   transfer to [**Hospital1 5**], his PICC line was noted to be advanced into the
   right atrium, and it was thought that this may have been triggering his
   atrial fibrillation. During his hospitalization at [**Hospital1 5**], he remained
   in sinus rhythm and with excellent rate control. His chart says that
   his amioderone was discontinued, but currently ordered.
   - cont amioderone at 400mg [**Hospital1 **] and clarify plan with primary team
   - while had a CHADS score of 3, hold anticoagulation in the setting of
   active bleed.
   .
   .
   # Hyperglycemia
   He was started on insulin during his hospitalization at [**Hospital3 1011**] and was continued on insulin during his hospitalization at
   [**Hospital1 5**]. [**Month (only) 8**] be the result of pancreatic insufficiency with pancreatitis
   vs. a new diagnosis of DM.
   - cont HISS
   - adjust insulin in TPN
   .
   # Hepatic Cirrhosis
   Imaging from abdominal CT and MRCP revealed hepatic cirrhosis, although
   patient has no history of this in the past. The hepatology team was
   consulted, and the felt no evidence of hepatic cirrhosis.  They
   recommended a liver biopsy, but overall felt that ascites more
   secondary to pancreatitis.  Hepatitis serologies were sent and were
   unremarkable.
   .
   # Family Contact
   Patient's family contact is the patient's niece [**Name (NI) 12548**] [**Name (NI) 12549**]. Her
   home number is ([**Telephone/Fax (1) 12550**]; work number is ([**Telephone/Fax (1) 12551**]; cell number
   is ([**Telephone/Fax (1) 12552**]..
   .
   # Arterial epinephrine:  dopplerable pulse.  Warm and well perfused.
   No issues
   .
   FEN: IVF, replete electrolytes, NPO
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripheral and PICC
   .
   Code:  Full
   .
   Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-12**] 04:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-05-14 09:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on vasopressors, tolerating slowly weaning.
   Remains with anuric renal failure.
   Received 1 unit PRBC for progressive anemia.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-12**] 06:00 PM
   Meropenem - [**2166-5-14**] 12:58 AM
   Vancomycin - [**2166-5-14**] 12:58 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-5-14**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-5-14**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37
C (98.6
   HR: 110 (78 - 116) bpm
   BP: 118/51(71) {99/43(60) - 125/52(75)} mmHg
   RR: 24 (24 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 129.5 kg (admission): 110 kg
   Height: 72 Inch
   CVP: 325 (19 - 325)mmHg
   Bladder pressure: 14 (14 - 16) mmHg
   Total In:
                                                                  3,815 mL
                                                                  1,641 mL
   PO:
   TF:
   IVF:
                                                                  2,226 mL
                                                                    556 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,059 mL
                                                                    565 mL
   Urine:
                                                                    109 mL
                                                                     15 mL
   NG:
                                                                    950 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  2,756 mL
                                                                  1,076 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.32/36/122/19/-6
   Ve: 11.5 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Diffuse erythematous blanching rash over trunk,
   No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   263 K/uL
   200 mg/dL
   3.6 mg/dL
   19 mEq/L
   5.0 mEq/L
   66 mg/dL
   109 mEq/L
   137 mEq/L
   24.1 %
   19.3 K/uL
        [image002.jpg]
                             [**2166-5-12**]  05:23 PM
                             [**2166-5-12**]  11:52 PM
                             [**2166-5-13**]  03:32 AM
                             [**2166-5-13**]  03:44 AM
                             [**2166-5-13**]  05:02 AM
                             [**2166-5-13**]  09:38 AM
                             [**2166-5-13**]  02:44 PM
                             [**2166-5-13**]  02:56 PM
                             [**2166-5-13**]  09:28 PM
                             [**2166-5-14**]  04:28 AM
   WBC
   25.3
   19.3
   Hct
   25.0
   25.3
   23.8
   22.2
   24.1
   Plt
   349
   263
   Cr
   2.7
   3.0
   3.3
   3.6
   TCO2
   20
   20
   18
   18
   19
   Glucose
   353
   161
   195
   200
   Other labs: PT / PTT / INR:16.4/34.7/1.5, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:14/22, Alk Phos / T Bili:96/1.1,
   Amylase / Lipase:/116, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.8 g/dL,
   LDH:244 IU/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   83 yom pancreatitis -->  large pancreatic pseudocyst with multiple
   intra-abdominal fluid collections (?related to pseudocyst) -->
   gastroduodenal artery pseudoanyeurism hemorrhage into a pseudocyst, now
   s/p cardiac arrest (?PEA).  Overall, worsening clinical status.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.
   Hypoxemia prior to event.  Radiographic evidence for LLL density
   (atalectasis vs. pneumonia).   Plan continue mechanical ventiation,
   monitor ABG, SaO2, mechanics, CXR.
   s/p PEA ARREST -- Unclear precipitant, but concerns include hypoxemia
   (preceeding event), aspiration, or hypovolemia (possible further bleed
   into pseudoaneurysm, 3rd spacing).  Pulmonary embolism possible,
   although no ECG changes (no right heart strain on EKG), LE NIVS without
   DVT and cardiac echo without evidence for RV strain.   No cooling
   initiated because of active bleeding (and concerns for worsening
   bleeding if cooled).  Neurologically responsive initially, now on
   sedation.  Continue to monitor VS.
   HYPOTENSION -- attributed to sepsis, pancreatitis, and possible
   hypovolemia, and blood loss (less).  Concern for possible pulmonary
   embolism.  Monitor BP, maintain MAP > 60 mmHg.  Plan to proceed with CT
   angio
 if clot identified, then would place IVC filter while remains
   at risk for bleeding.
   GDA ANERYSM
 will require IR-guided embolization when stable.  Hold
   anticoagulation.  If PE identified, will need IVC filter pending final
   intervention for aneurysm.
   ANEMIA -- attributed to bleeding of pseudoaneurysm into pseudocyst,
   phlebotomy.  Continues to require transfusion.
   PANCREATITIS -- c/b  Pancreatic Pseudocysts, multiple intra-abdominal
   fluid Collections.   General Surgery recommended that the patient
   continue to be NPO, continue nutrition with TPN, and then follow-up in
   [**5-6**] weeks with repeat imaging and clinic follow-up for consideration of
   surgical intervention at that time.
   STAPH EPI BACTERIMIA -- suspect line-related.  Continue Vanco.
   PSEUDOCYST -- Rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression, with bleeding.   Continue
   vanc/zosyn.  ID consult in progress.
   RASH -- diffuse, blanching erythema.  Suspect drug-related (probable
   antimicrobial).
   C. DIFF COLITIS --  Continue PO vanc for an additional 14 days.
   NUTRITIONAL SUPPORT -- TPN.
   A-FIB -- new recent problem, plan monitor HR.
   ACUTE RENAL FAILURE -- anuric renal failure, in context of
   arrest/code.  Probable ATN.  Monitor BUN, creatinine, uo.  Avoid
   nephrotoxic meds, provide.mucomyst.  At risk for dye-induced renal
   injury required for CT angio and IR-directed embolization.
   HYPERGLYCEMIA -- Likely related to pancreatitis complications.
   Continue insulin.
   FLUIDS -- maintain CVP >12.   Monitor I/O.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2166-5-13**] 07:01 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-12**] 04:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Family meeting, including HCP.  Provided
   medical update, answered all questions.  All in agreement that patient
   would want to continue current level of care, and that patient would
   agree with dialysis if indicated, proceeding with CT angiogram to
   assess for pulmonoary embolism, and proceed with IR-guided emoblication
   of gastro-duodenal artery aneurysm.
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Pt remains critically ill, intubated, mechanically ventilated,
   vasopressor dependent (3 vasopressors) and anuric renal failure.
   Regarding planned contrast studies, discussed extensively with all
   family members, including HCP.  Discussed medical indication for CT
   angiogram to assess for pulmonary embolism (for evaluation of arrest,
   persistent tachcardia and hypotension) and medical indication for
   IR-directed embolization of GDA aneurysm.  Unable to empirically
   anticoagulate because of bleeding GDA aneurysm.  Will require iv
   contrast dye for both studies, and HCP and family members all
   understand the high risk for further renal dysfunction and worsening
   renal failure, possible permanent.  Currently with anuric renal failure
   following cardiac arrest.  All understand risk for  prolonged or
   permanent renal failure, and possibilty that kidneys may not improve.
   All in agreement to assume the risks, and all in agreement to proceed
   with these procedures.  Renal consultants evaluated and prepared to
   initiate renal replacement  therapy for current anuric renal failure.
   Unfortunately, very difficult clinical situtuation for this critically
   ill patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2166-5-14**] 20:26 ------

2166-05-15 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2166-5-14**] 09:47 PM
 ARTERIAL LINE - START [**2166-5-15**] 12:51 AM
   - IR embolization of the pseudo-aneurysm is pending improvement
   clinically - going in AM
   - wean pressors as tolerated, MAP > 65
   - vanco lvl with am labs, question for renal replacement therapy
   - family meeting - CRRT, full code, Question CTA for r/o PE, likely
   will need CVL access.
   - PO amiodarone to IV amiodarone done
   - clean up meds for drug rash - d/c'd vancomycin, would consider
   meropenem as the [**Doctor Last Name **] (only 2% chance of causing a rash).
   - renal - no CRRT at this point
   - ID recs: reduce [**Last Name (un) **] to 500 qD, change foley (given yeast) -  not
   done yet
   - Aline exchanged, started new one
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-12**] 06:00 PM
   Vancomycin - [**2166-5-14**] 12:58 AM
   Meropenem - [**2166-5-15**] 12:07 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-5-15**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-15**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 76 (76 - 127) bpm
   BP: 120/46(68) {77/37(-28) - 142/97(105)} mmHg
   RR: 25 (22 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.3 kg (admission): 110 kg
   Height: 72 Inch
    CVP: 324 (323 - 325)mmHg
   Total In:
                                                                  3,434 mL
                                                                    977 mL
   PO:
   TF:
   IVF:
                                                                  1,193 mL
                                                                    397 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    697 mL
                                                                    645 mL
   Urine:
                                                                    137 mL
                                                                     95 mL
   NG:
                                                                    550 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                  2,737 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 41.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/35/116/18/-5
   Ve: 10.9 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   6.9 g/dL
   147 mg/dL
   4.3 mg/dL
   18 mEq/L
   4.3 mEq/L
   74 mg/dL
   104 mEq/L
   132 mEq/L
   22.5 %
   19.6 K/uL
        [image002.jpg]
                             [**2166-5-13**]  03:32 AM
                             [**2166-5-13**]  03:44 AM
                             [**2166-5-13**]  05:02 AM
                             [**2166-5-13**]  09:38 AM
                             [**2166-5-13**]  02:44 PM
                             [**2166-5-13**]  02:56 PM
                             [**2166-5-13**]  09:28 PM
                             [**2166-5-14**]  04:28 AM
                             [**2166-5-14**]  11:00 AM
                             [**2166-5-15**]  04:22 AM
   WBC
   25.3
   19.3
   19.6
   Hct
   25.3
   23.8
   22.2
   24.1
   22.5
   Plt
   349
   263
   258
   Cr
   2.7
   3.0
   3.3
   3.6
   4.3
   TCO2
   20
   18
   18
   19
   20
   Glucose
   353
   161
   195
   200
   147
   Other labs: PT / PTT / INR:16.1/32.1/1.4, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:14/22, Alk Phos / T Bili:96/1.1,
   Amylase / Lipase:/116, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.8 g/dL,
   LDH:244 IU/L, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   CTA chest (wet read):
   significant streak artifact from arms at patient's side bilaterally,
   limiting
   evalution; however, no central or segmental pulmonary embolism. cannot
   entirely exclude small subsegmental pulmonary embolisms.
   bilateral small to moderate pleural effusions with adjacent compressive
   atelectasis, stable since [**2166-5-11**].
   multiple right sided rib fractures.
   Assessment and Plan
   83 y/o male with history of BPH was transferred from an OSH for
   evaluation of pancreatitis. Evaluation was notable for large pancreatic
   pseudocyst with multiple intra-abdominal fluid collections thought
   related to his pseudocyst. His course is complicated by GDA
   pseudoaneurysm hemorrhage into a pseudocyst, requiring IR guided
   embolization.
   .
   # PEA arrest:  Unclear precipitant.  No hypoglycemia on the scene, and
   no e/o hypo/hyperkalemia.  EKG w/o evidence of ACS, cardiac markers
   pending.  the patient was noted to be tachypneic, so should consider
   PE.  No right heart strain on EKG.  The patient was noted noted to be
   hypoxic leading up to the event.  Must also consider more active bleed
   from pseudoaneurysm.  Potential for aspiration as precipitating event
   as well.  TTE and LENIS were negative.   Unable to wean pressors, on
   steroid v placebo trial.  Still worried about PE as causal
   -- continue intubation for airway protection and wean as tolerated
   -- fentanyl/midaz given active pancreatic issues
   -- IVF, wean pressors as tolerated
   -- trend hct for e/o of active bleed ([**Hospital1 **])
   -- consider CTA for eval for PE, especially if patient is to start CRRT
   .
   # Acute Renal Failure
   During his admission at the OSH, his creatinine was as high as 1.9 and
   then remained stable between .[**8-31**].  Creatining started trending up in
   the last 48hrs, and was given one dose of lasix on the floor, with Cr
   rise to 1.2.  He was given mucomyst and NaHCO3 with the anticipation of
   contrast from IR procedure.  Given that patient was pulsesless for 10
   minutes, potential for ATN.  Urine lytes consistent with intrarenal
   process, Eos negative but their NPV is ~ 16%. Worsening today,
   uptrending by 0.3 daily.
   - avoid nephrotoxic meds
 d/c
d vancomycin, checking levels, redose
   when < 15
   - trend creatinine.
   - per prior discussion, family amenable to CRRT; renal c/s today
   .
   # Pancreatititis, Pancreatic Pseudocysts, Intra-abdominal fluid
   Collections:
   On ERCP, patient was found to have bile duct filling defect, suggestive
   of external compression. He underwent follow-up EUS which revealed a
   large pancreatic pseudocyst. CTA Pancreas was also performed, which
   confirmed the large pseudocysts but also noted multiple large abdominal
   fluid collections. He was evaluated by general surgery, who thought his
   abdominal process of pancreatic pseudocyst and associated inflammation
   was relatively immature, and that surgical intervention or drainage at
   this time was not indicated. They recommended that the patient continue
   to be NPO, continue nutrition with TPN, and then follow-up in [**5-6**] weeks
   with repeat imaging and clinic follow-up for consideration of surgical
   intervention at that time..
   Patient now with rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression.  Given hemorrhage into
   pseudocyst, may very well be reactive inflammation from hemorrhage.  CT
   did not reveal necrotic component.
   - continue meropenem
   - ID recs
   - f/u pending blood and urine cultures.
   - f/u general surgery recs
   - Hct continues to drop; patient will go for IR-guided embolization of
   GDA pseudoaneurysm today
   .
   # Clostridium difficile infection:
   Within 48 hours of admission, patient developed increased diarrhea and
   marked leukocytosis from 17 to 26. He was C. diff positive and started
   on flagyl on [**2166-5-7**] with improvement in his diarrhea. He was initially
   stated on flagyl, but started on PO vanc on the day of ICU transfer.
   - cont vanc enemas and cont for until has completed other antibiotics
   then for an additional 14d.
   .
   # Atrial Fibrillation
   Patient was diagnosed with atrial fibrillation at the OSH and was
   started on diltiazem before being transitioned to amiodarone. Upon
   transfer to [**Hospital1 5**], his PICC line was noted to be advanced into the
   right atrium, and it was thought that this may have been triggering his
   atrial fibrillation. During his hospitalization at [**Hospital1 5**], he remained
   in sinus rhythm and with excellent rate control. His chart says that
   his amioderone was discontinued, but currently ordered.
   - cont amiodarone at 400mg [**Hospital1 **] and clarify plan with primary team
   - while had a CHADS score of 3, hold anticoagulation in the setting of
   active bleed.
   .
   # Hyperglycemia
   He was started on insulin during his hospitalization at [**Hospital3 1011**] and was continued on insulin during his hospitalization at
   [**Hospital1 5**]. [**Month (only) 8**] be the result of pancreatic insufficiency with pancreatitis
   vs. a new diagnosis of DM.
   - cont HISS
   - adjust insulin in TPN
   .
   # Hepatic Cirrhosis
   Imaging from abdominal CT and MRCP revealed hepatic cirrhosis, although
   patient has no history of this in the past. The hepatology team was
   consulted, and the felt no evidence of hepatic cirrhosis.  They
   recommended a liver biopsy, but overall felt that ascites more
   secondary to pancreatitis.  Hepatitis serologies were sent and were
   unremarkable.
   .
   # Family Contact
   Patient's family contact is the patient's niece [**Name (NI) 12548**] [**Name (NI) 12549**]. Her
   home number is ([**Telephone/Fax (1) 12550**]; work number is ([**Telephone/Fax (1) 12551**]; cell number
   is ([**Telephone/Fax (1) 12552**]..
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: pboots
   Access: PICC
   Code:  Full
   Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2166-5-14**] 07:00 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-15**] 12:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-05-15 11:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Neosinephrine d/c'd, remains on vasopressin and Levophed.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-12**] 06:00 PM
   Vancomycin - [**2166-5-14**] 12:58 AM
   Meropenem - [**2166-5-15**] 12:07 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-5-15**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-5-15**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.3
C (95.5
   HR: 80 (74 - 127) bpm
   BP: 124/46(70) {77/37(-28) - 142/97(105)} mmHg
   RR: 24 (22 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.3 kg (admission): 110 kg
   Height: 72 Inch
   CVP: 324 (323 - 325)mmHg
   Total In:
                                                                  3,434 mL
                                                                  1,375 mL
   PO:
   TF:
   IVF:
                                                                  1,193 mL
                                                                    517 mL
   Blood products:
                                                                    350 mL
                                                                     35 mL
   Total out:
                                                                    697 mL
                                                                    709 mL
   Urine:
                                                                    137 mL
                                                                    159 mL
   NG:
                                                                    550 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                  2,737 mL
                                                                    666 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/33/344/18/-6
   Ve: 11.4 L/min
   PaO2 / FiO2: 688
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   258 K/uL
   147 mg/dL
   4.3 mg/dL
   18 mEq/L
   4.3 mEq/L
   74 mg/dL
   104 mEq/L
   132 mEq/L
   22.5 %
   19.6 K/uL
        [image002.jpg]
                             [**2166-5-13**]  03:44 AM
                             [**2166-5-13**]  05:02 AM
                             [**2166-5-13**]  09:38 AM
                             [**2166-5-13**]  02:44 PM
                             [**2166-5-13**]  02:56 PM
                             [**2166-5-13**]  09:28 PM
                             [**2166-5-14**]  04:28 AM
                             [**2166-5-14**]  11:00 AM
                             [**2166-5-15**]  04:22 AM
                             [**2166-5-15**]  08:49 AM
   WBC
   19.3
   19.6
   Hct
   23.8
   22.2
   24.1
   22.5
   Plt
   263
   258
   Cr
   3.0
   3.3
   3.6
   4.3
   TCO2
   20
   18
   18
   19
   20
   19
   Glucose
   161
   195
   200
   147
   Other labs: PT / PTT / INR:16.1/32.1/1.4, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:14/22, Alk Phos / T Bili:96/1.1,
   Amylase / Lipase:/116, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.8 g/dL,
   LDH:244 IU/L, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   83 yom pancreatitis -->  large pancreatic pseudocyst with multiple
   intra-abdominal fluid collections (?related to pseudocyst) -->
   gastroduodenal artery pseudoanyeurism hemorrhage into a pseudocyst, now
   s/p cardiac arrest (?PEA).  Overall, worsening clinical status.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.
   Hypoxemia prior to event.  Radiographic evidence for LLL density
   (atalectasis vs. pneumonia).   Plan continue mechanical ventiation,
   monitor ABG, SaO2, mechanics, CXR.
   s/p PEA ARREST -- Unclear precipitant, but concerns include hypoxemia
   (preceeding event), aspiration, or hypovolemia (possible further bleed
   into pseudoaneurysm, 3rd spacing).  Pulmonary embolism possible,
   although no ECG changes (no right heart strain on EKG), LE NIVS without
   DVT and cardiac echo without evidence for RV strain.   No cooling
   initiated because of active bleeding (and concerns for worsening
   bleeding if cooled).  Neurologically responsive initially, now on
   sedation.  Continue to monitor VS.
   HYPOTENSION -- attributed to sepsis, pancreatitis, and possible
   hypovolemia, and blood loss (less).  Concern for possible pulmonary
   embolism.  Monitor BP, maintain MAP > 60 mmHg.  Plan to proceed with CT
   angio
 if clot identified, then would place IVC filter while remains
   at risk for bleeding.
   GDA ANERYSM
 will require IR-guided embolization when stable.  Hold
   anticoagulation.  If PE identified, will need IVC filter pending final
   intervention for aneurysm.
   ANEMIA -- attributed to bleeding of pseudoaneurysm into pseudocyst,
   phlebotomy.  Continues to require transfusion.
   PANCREATITIS -- c/b  Pancreatic Pseudocysts, multiple intra-abdominal
   fluid Collections.   General Surgery recommended that the patient
   continue to be NPO, continue nutrition with TPN, and then follow-up in
   [**5-6**] weeks with repeat imaging and clinic follow-up for consideration of
   surgical intervention at that time.
   STAPH EPI BACTERIMIA -- suspect line-related.  Continue Vanco.
   PSEUDOCYST -- Rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression, with bleeding.   Continue
   vanc/zosyn.  ID consult in progress.
   RASH -- diffuse, blanching erythema.  Suspect drug-related (probable
   antimicrobial).
   C. DIFF COLITIS --  Continue PO vanc for an additional 14 days.
   NUTRITIONAL SUPPORT -- TPN.
   A-FIB -- new recent problem, plan monitor HR.
   ACUTE RENAL FAILURE -- anuric renal failure, in context of
   arrest/code.  Probable ATN.  Monitor BUN, creatinine, uo.  Avoid
   nephrotoxic meds, provide.mucomyst.  At risk for dye-induced renal
   injury required for CT angio and IR-directed embolization.
   HYPERGLYCEMIA -- Likely related to pancreatitis complications.
   Continue insulin.
   FLUIDS -- maintain CVP >12.   Monitor I/O.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2166-5-14**] 07:00 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-15**] 12:51 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2166-05-16 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - came off pressors
   - went to IR, bradied/became hypotensive --> came back with Levo to 80
   with SBP 110
   - GDA aneurysmal but not bleeding
   - Why is he not awake? head imaging? EEG?
   - Off pressors in AM
   - KUB
 uninterpretable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2166-5-16**] 12:00 AM
   Vancomycin - [**2166-5-16**] 02:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2166-5-15**] 03:45 PM
   Midazolam (Versed) - [**2166-5-15**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-16**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.4
C (95.8
   HR: 76 (74 - 107) bpm
   BP: 120/47(68) {92/40(56) - 144/59(119)} mmHg
   RR: 22 (21 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 125.4 kg (admission): 110 kg
   Height: 72 Inch
    CVP: 18 (17 - 20)mmHg
   Total In:
                                                                  3,167 mL
                                                                    887 mL
   PO:
   TF:
   IVF:
                                                                  1,164 mL
                                                                    401 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,197 mL
                                                                    519 mL
   Urine:
                                                                    347 mL
                                                                    259 mL
   NG:
                                                                    850 mL
                                                                    225 mL
   Stool:
   Drains:
                                                                     35 mL
   Balance:
                                                                  1,970 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/33/120/18/-6
   Ve: 11.4 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   8.4 g/dL
   136 mg/dL
   4.5 mg/dL
   18 mEq/L
   4.3 mEq/L
   86 mg/dL
   104 mEq/L
   131 mEq/L
   25.8 %
   24.7 K/uL
        [image002.jpg]
                             [**2166-5-13**]  09:28 PM
                             [**2166-5-14**]  04:28 AM
                             [**2166-5-14**]  11:00 AM
                             [**2166-5-15**]  04:22 AM
                             [**2166-5-15**]  08:49 AM
                             [**2166-5-15**]  01:57 PM
                             [**2166-5-15**]  08:54 PM
                             [**2166-5-15**]  10:26 PM
                             [**2166-5-16**]  03:45 AM
                             [**2166-5-16**]  04:08 AM
   WBC
   19.3
   19.6
   24.7
   Hct
   22.2
   24.1
   22.5
   24.6
   25.8
   Plt
   263
   258
   269
   Cr
   3.3
   3.6
   4.3
   4.3
   4.5
   TCO2
   20
   19
   20
   19
   19
   Glucose
   195
   200
   147
   157
   136
   Other labs: PT / PTT / INR:15.7/29.7/1.4, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:14/22, Alk Phos / T Bili:96/1.1,
   Amylase / Lipase:/116, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.8 g/dL,
   LDH:244 IU/L, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   83 y/o male with history of BPH was transferred from an OSH for
   evaluation of pancreatitis. Evaluation was notable for large pancreatic
   pseudocyst with multiple intra-abdominal fluid collections thought
   related to his pseudocyst. His course is complicated by GDA
   pseudoaneurysm hemorrhage into a pseudocyst, requiring IR guided
   embolization.
   .
   # Acute Renal Failure
   During his admission at the OSH, his creatinine was as high as 1.9 and
   then remained stable between .[**8-31**].  Creatining started trending up in
   the last 48hrs, and was given one dose of lasix on the floor, with Cr
   rise to 1.2.  He was given mucomyst and NaHCO3 with the anticipation of
   contrast from IR procedure.  Given that patient was pulseless for 10
   minutes, potential for ATN.  Urine lytes consistent with intrarenal
   process, Eos negative but their NPV is ~ 16%. Worsening today,
   uptrending by 0.3 daily.
   - trial bolus of lasix to see if UOP improves; if he fails, start CVVH
   per Renal
   - avoid nephrotoxic meds; d/ced vancomycin
   - trend creatinine.
   - per prior discussion, family amenable to CRRT
   - f/u renal recs re: when to start CRRT
   .
   # Unresponsiveness S/p PEA arrest:  Unclear precipitant.  No
   hypoglycemia on the scene, and no e/o hypo/hyperkalemia.  EKG w/o
   evidence of ACS, cardiac markers pending.  the patient was noted to be
   tachypneic, so should consider PE.  No right heart strain on EKG.  The
   patient was noted noted to be hypoxic leading up to the event.  Must
   also consider more active bleed from pseudoaneurysm.  Potential for
   aspiration as precipitating event as well.  TTE, LENIs, CTA neg.
   - continue intubation for airway protection and wean as tolerated
   - avoiding BZDs today, continue fentanyl
   - IVF, wean pressors as tolerated
   - trend Hct for e/o of active bleed ([**Hospital1 **])
   .
   # AMS
 Still unresponsive after discontinuation of midazolam for
   sedation.  Rhythmic motion of R leg concerning for seizure. Worried
   that bzd were masking seizure
   - EEG to r/o epileptiform activity
   - hold on head imaging for now
   - continue to reassess mental status s/p withdrawal of midazolam this
   AM
   .
   # aspiration pneumonia
   - D6/8 of antibiotics; no source grown from sputum cx
   - switching from meropenem to zosyn given ID recs
   .
   # Pancreatititis, Pancreatic Pseudocysts, Intra-abdominal fluid
   Collections:
   On ERCP, patient was found to have bile duct filling defect, suggestive
   of external compression. He underwent follow-up EUS which revealed a
   large pancreatic pseudocyst. CTA Pancreas was also performed, which
   confirmed the large pseudocysts but also noted multiple large abdominal
   fluid collections. He was evaluated by general surgery, who thought his
   abdominal process of pancreatic pseudocyst and associated inflammation
   was relatively immature, and that surgical intervention or drainage at
   this time was not indicated. They recommended that the patient continue
   to be NPO, continue nutrition with TPN, and then follow-up in [**5-6**] weeks
   with repeat imaging and clinic follow-up for consideration of surgical
   intervention at that time..
   Patient now with rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression.  Given hemorrhage into
   pseudocyst, may very well be reactive inflammation from hemorrhage.  CT
   did not reveal necrotic component.
   - ID recs
   - f/u pending blood and urine cultures.
   - f/u general surgery recs
   - Hct continues to drop; patient will go for IR-guided embolization of
   GDA pseudoaneurysm today
   .
   # Clostridium difficile infection:
   Within 48 hours of admission, patient developed increased diarrhea and
   marked leukocytosis from 17 to 26. He was C. diff positive and started
   on flagyl on [**2166-5-7**] with improvement in his diarrhea. He was initially
   stated on flagyl, but started on PO vanc on the day of ICU transfer.
   Now with worsening abdominal distention, although this could be from
   massive fluid overload.
   - cont vanc enemas and cont for until has completed other antibiotics
   then for an additional 14d
   - add IV flagyl per ID recs
   - KUB: limited evaluation
   - transduce bladder pressure
   .
   # Atrial Fibrillation
   Patient was diagnosed with atrial fibrillation at the OSH and was
   started on diltiazem before being transitioned to amiodarone. Upon
   transfer to [**Hospital1 5**], his PICC line was noted to be advanced into the
   right atrium, and it was thought that this may have been triggering his
   atrial fibrillation. During his hospitalization at [**Hospital1 5**], he remained
   in sinus rhythm and with excellent rate control. His chart says that
   his amioderone was discontinued, but currently ordered.
   - amiodarone redosed to gtt given inability to administer PO meds
   - while had a CHADS score of 3, hold anticoagulation in the setting of
   active bleed.
   .
   # Hyperglycemia
   He was started on insulin during his hospitalization at [**Hospital3 1011**] and was continued on insulin during his hospitalization at
   [**Hospital1 5**]. [**Month (only) 8**] be the result of pancreatic insufficiency with pancreatitis
   vs. a new diagnosis of DM.
   - cont HISS
   - adjust insulin in TPN
   .
   # Hepatic Cirrhosis
   Imaging from abdominal CT and MRCP revealed hepatic cirrhosis, although
   patient has no history of this in the past. The hepatology team was
   consulted, and the felt no evidence of hepatic cirrhosis.  They
   recommended a liver biopsy, but overall felt that ascites more
   secondary to pancreatitis.  Hepatitis serologies were sent and were
   unremarkable.
   .
   # Family Contact
   Patient's family contact is the patient's niece [**Name (NI) 12548**] [**Name (NI) 12549**]. Her
   home number is ([**Telephone/Fax (1) 12550**]; work number is ([**Telephone/Fax (1) 12551**]; cell number
   is ([**Telephone/Fax (1) 12552**]..
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: pboots
   Access: PICC
   Code:  Full
   Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2166-5-15**] 08:16 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-15**] 12:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-05-16 09:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Weaned off vasopressors yesterday.
   Traveled to IR for successful emoblization of GDA --> experienced
   transient bradycardia and hypotension --> required transient use of
   vaspressor.
   Neurologically, remains somnulant, now off sedatives.
   Urine output increasing gradually.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2166-5-16**] 12:00 AM
   Vancomycin - [**2166-5-16**] 08:22 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2166-5-15**] 03:45 PM
   Midazolam (Versed) - [**2166-5-15**] 04:00 PM
   Pantoprazole (Protonix) - [**2166-5-16**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Hypotension
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-5-16**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.4
C (95.8
   HR: 76 (74 - 107) bpm
   BP: 120/47(68) {92/40(56) - 144/59(119)} mmHg
   RR: 22 (21 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 125.4 kg (admission): 110 kg
   Height: 72 Inch
   CVP: 18 (17 - 20)mmHg
   Total In:
                                                                  3,167 mL
                                                                  1,010 mL
   PO:
   TF:
   IVF:
                                                                  1,164 mL
                                                                    441 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,197 mL
                                                                    559 mL
   Urine:
                                                                    347 mL
                                                                    299 mL
   NG:
                                                                    850 mL
                                                                    225 mL
   Stool:
   Drains:
                                                                     35 mL
   Balance:
                                                                  1,970 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/33/120/18/-6
   Ve: 10.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: diffuse erythematous blanching rash over trunk,now
   advancing to arms & legs, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Slow rhythmic movement of right
   leg during bedside rounds
   Labs / Radiology
   8.4 g/dL
   269 K/uL
   136 mg/dL
   4.5 mg/dL
   18 mEq/L
   4.3 mEq/L
   86 mg/dL
   104 mEq/L
   131 mEq/L
   25.8 %
   24.7 K/uL
        [image002.jpg]
                             [**2166-5-13**]  09:28 PM
                             [**2166-5-14**]  04:28 AM
                             [**2166-5-14**]  11:00 AM
                             [**2166-5-15**]  04:22 AM
                             [**2166-5-15**]  08:49 AM
                             [**2166-5-15**]  01:57 PM
                             [**2166-5-15**]  08:54 PM
                             [**2166-5-15**]  10:26 PM
                             [**2166-5-16**]  03:45 AM
                             [**2166-5-16**]  04:08 AM
   WBC
   19.3
   19.6
   24.7
   Hct
   22.2
   24.1
   22.5
   24.6
   25.8
   Plt
   263
   258
   269
   Cr
   3.3
   3.6
   4.3
   4.3
   4.5
   TCO2
   20
   19
   20
   19
   19
   Glucose
   195
   200
   147
   157
   136
   Other labs: PT / PTT / INR:15.7/29.7/1.4, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:14/22, Alk Phos / T Bili:96/1.1,
   Amylase / Lipase:/116, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.8 g/dL,
   LDH:244 IU/L, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   83 yom pancreatitis -->  large pancreatic pseudocyst with multiple
   intra-abdominal fluid collections (?related to pseudocyst) -->
   gastroduodenal artery pseudoanyeurism hemorrhage into a pseudocyst, now
   s/p cardiac arrest (?PEA).  Overall, demonstrating clinical improvement
   over past 24 hrs.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.
   Hypoxemia prior to event.  Radiographic evidence for LLL density
   (atalectasis vs. pneumonia).   Plan continue mechanical ventiation,
   monitor ABG, SaO2, mechanics, CXR.
   s/p PEA ARREST -- Unclear precipitant, but concerns include hypoxemia
   (preceeding event), aspiration, or hypovolemia (possible further bleed
   into pseudoaneurysm, 3rd spacing).  No evidence for pulmonary embolism
   (no ECG changes, no right heart strain on EKG, LE NIVS without DVT, and
   negative CTA).  Neurologically responsive initially, now on sedation.
   Continue to monitor VS.
   HYPOTENSION -- attributed to sepsis, pancreatitis, and possible
   hypovolemia, and blood loss (less).  Improved.  Monitor BP, maintain
   MAP > 60 mmHg.
   GDA ANERYSM
 s/p successful IR-guided embolization.  Hold
   anticoagulation.
   RHYTHMIC MOVEMENT RIGHT LEG -- concern for focal seizure.  Precipitants
   include s/p arrest, renal failure (although BUN <100).  Plan EEG to
   assess. Consider head imaging.
   ANEMIA -- attributed to bleeding of pseudoaneurysm into pseudocyst,
   phlebotomy.  Continues to require transfusion.
   PANCREATITIS -- c/b  Pancreatic Pseudocysts, multiple intra-abdominal
   fluid Collections.   General Surgery recommended that the patient
   continue to be NPO, continue nutrition with TPN, and then follow-up in
   [**5-6**] weeks with repeat imaging and clinic follow-up for consideration of
   surgical intervention at that time.  Monitor bladder pressure.  Low
   threshold for imaging.
   STAPH EPI BACTERIMIA -- suspect line-related.  s/p Vanco.
   PSEUDOCYST -- Rising WBC, rising lipase, and increasing LUQ pain.
   Repeat imaging reveals interval progression, with bleeding.   Continue
   vanc/zosyn.  ID consult in progress.
   RASH -- diffuse, blanching erythema.  Suspect drug-related (probable
   antimicrobial).
   C. DIFF COLITIS --  Continue PO vanc for an additional 14 days.  check
   for evidence of toxic megacolon.  KUB unrevealing, consider ABD CT.
   NUTRITIONAL SUPPORT -- TPN.
   A-FIB -- new recent problem, plan monitor HR.
   ACUTE RENAL FAILURE -- anuric renal failure, in context of
   arrest/code.  Probable ATN.  Monitor BUN, creatinine, uo.  Avoid
   nephrotoxic meds, provide.mucomyst.  At risk for dye-induced renal
   injury required for CT angio and IR-directed embolization.
   HYPERGLYCEMIA -- Likely related to pancreatitis complications.
   Continue insulin.
   FLUIDS -- maintain CVP >12.   Monitor I/O.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2166-5-15**] 08:16 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-15**] 12:51 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2166-05-17 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2166-5-16**] 10:44 PM
 RECTAL SWAB - At [**2166-5-17**] 01:56 AM
   - renal willing to start CRRT but asked us to trial lasix first; he
   responded well to it so deferred CRRT for now, started on lasix gtt
   - had some R leg shaking, coming off sedation, getting an EEG to r/o
   epileptiform activity
   - KUB was nondiagnostic; obtained CT abdomen; read suggests new 7x7cm
   fluid collection suspicious for pseudocyst
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2166-5-16**] 12:00 AM
   Vancomycin - [**2166-5-16**] 03:23 PM
   Metronidazole - [**2166-5-17**] 02:13 AM
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-17**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Furosemide (Lasix) - 5 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2166-5-16**] 10:03 AM
   Pantoprazole (Protonix) - [**2166-5-16**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-17**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 99 (76 - 101) bpm
   BP: 96/41(57) {93/41(57) - 154/77(96)} mmHg
   RR: 28 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.9 kg (admission): 110 kg
   Height: 72 Inch
    CVP: 14 (14 - 23)mmHg
   Bladder pressure: 10 (10 - 16) mmHg
   Total In:
                                                                  3,193 mL
                                                                    998 mL
   PO:
   TF:
   IVF:
                                                                  1,187 mL
                                                                    466 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    765 mL
   Urine:
                                                                  1,045 mL
                                                                    415 mL
   NG:
                                                                  1,225 mL
                                                                    200 mL
   Stool:
                                                                    150 mL
   Drains:
                                                                     35 mL
   Balance:
                                                                    888 mL
                                                                    233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 458 (458 - 497) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 23.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/29/77/19/-4
   Ve: 15 L/min
   PaO2 / FiO2: 154
   Physical Examination
   GEN: intubated, unresponsive (not on sedation)
   CV: RRR
   RESP: rhonchorous throughout, diminished BS at bases bilaterally
   ABD: tense, distended, pitting edema, no appreciable BS
   EXT: 2+ pitting edema bilaterally
   DERM: diffuse maculopapular rash, worsened in severity, across trunk,
   arms, and proximal legs
   Labs / Radiology
   347 K/uL
   8.9 g/dL
   107 mg/dL
   4.8 mg/dL
   19 mEq/L
   4.4 mEq/L
   93 mg/dL
   100 mEq/L
   127 mEq/L
   28.0 %
   28.9 K/uL
        [image002.jpg]
                             [**2166-5-15**]  04:22 AM
                             [**2166-5-15**]  08:49 AM
                             [**2166-5-15**]  01:57 PM
                             [**2166-5-15**]  08:54 PM
                             [**2166-5-15**]  10:26 PM
                             [**2166-5-16**]  03:45 AM
                             [**2166-5-16**]  04:08 AM
                             [**2166-5-16**]  08:56 PM
                             [**2166-5-17**]  03:08 AM
                             [**2166-5-17**]  04:40 AM
   WBC
   19.6
   24.7
   28.9
   Hct
   22.5
   24.6
   25.8
   28.0
   Plt
   258
   269
   347
   Cr
   4.3
   4.3
   4.5
   4.6
   4.8
   TCO2
   19
   20
   19
   19
   19
   Glucose
   147
   157
   136
   99
   107
   Other labs: PT / PTT / INR:15.8/32.1/1.4, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:[**11-15**], Alk Phos / T Bili:106/2.3,
   Amylase / Lipase:/116, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.8 g/dL,
   LDH:223 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   CT ABDOMEN
   1. Extensive fluid collections identified in the abdomen and pelvis,
   most of
   which are stable in size. Percutaneous drains remain in situ within one
   of
   these along the right. A new fluid collection is seen adjacent to the
   pancreatic tail extending along small bowel loops to the left abdominal
   flank.
   2. New areas of consolidation and ground-glass opacity are identified
   in the
   right middle lobe and right lower lobe consistent with pneumonia or
   aspiration.
   Assessment and Plan
   83 y/o male with history of BPH was transferred from an OSH for
   evaluation of pancreatitis. Evaluation was notable for large pancreatic
   pseudocyst with multiple intra-abdominal fluid collections thought
   related to his pseudocyst. His course is complicated by GDA
   pseudoaneurysm hemorrhage into a pseudocyst, requiring IR guided
   embolization.
   .
   # Acute Renal Failure
   During his admission at the OSH, his creatinine was as high as 1.9 and
   then remained stable between .[**8-31**].  Creatinine started trending up in
   the last 48hrs, and was given one dose of lasix on the floor, with Cr
   rise to 1.2.  He was given mucomyst and NaHCO3 with the anticipation of
   contrast from IR procedure.  Given that patient was pulseless for 10
   minutes, potential for ATN.  Urine lytes consistent with intrarenal
   process, Eos negative but their NPV is ~ 16%.  Worsening today,
   uptrending by 0.3 daily.
   - UOP improved today on lasix, but Cr still rising, worsening
   hyponatremia
   - monitor lytes [**Hospital1 **]; trend Cr
   - avoid nephrotoxic meds
   - per prior discussion, family amenable to CRRT
 reconfirm
   - f/u renal recs re: when to start CRRT (goals of care)
   - check pm lytes
   .
   # Unresponsiveness S/p PEA arrest:  Unclear precipitant.  No
   hypoglycemia on the scene, and no e/o hypo/hyperkalemia.  Cardiac
   enzymes and CTA chest were negative.  The patient was noted to be
   hypoxic leading up to the event.  Still unresponsive after
   discontinuation of midazolam for sedation.  DDx includes sedation
   (impaired renal clearance), uremia, structural defect (i.e. stroke),
   seizure, metabolic (i.e. hyponatremia).
   - f/u EEG resuls to r/o epileptiform activity
   - hold on head imaging for now
   - continue to reassess mental status s/p withdrawal of midazolam this
   AM
   .
   # aspiration +/- PNA
 as seen on CT chest
   - continue intubation and wean as tolerated
   - currently on Zosyn
   .
   # Pancreatititis, Pancreatic Pseudocysts, Intra-abdominal fluid
   Collections: On ERCP, patient was found to have bile duct filling
   defect, suggestive of external compression. He underwent follow-up EUS
   which revealed a large pancreatic pseudocyst. CTA Pancreas was also
   performed, which confirmed the large pseudocysts but also noted
   multiple large abdominal fluid collections. He was evaluated by general
   surgery, who thought his abdominal process of pancreatic pseudocyst and
   associated inflammation was relatively immature, and that surgical
   intervention or drainage at this time was not indicated. They
   recommended that the patient continue to be NPO, continue nutrition
   with TPN, and then follow-up in [**5-6**] weeks with repeat imaging and
   clinic follow-up for consideration of surgical intervention at that
   time.  Now s/p IR-guided embolization of GDA pseudoaneurysm, which
   appeared to have hemorrhaged into a pseudocyst.
    - was on meropenem; switched to Zosyn per ID recs as they felt that it
   could explain his abdominal rash
   - ID recs
   - f/u pending blood and urine cultures.
   - CT shows e/o new pseudocyst, may contribute to abdominal distention
   - f/u general surgery recs
   - trend Hct
   .
   # abdominal rash
 Continues to spread.  Thought to be drug-induced,
   with the most likely suspect being abx.  Both vancomycin and meropenem
   have been d/ced since development of rash.
   - continue to monitor
   .
   # Clostridium difficile infection:
   Within 48 hours of admission, patient developed increased diarrhea and
   marked leukocytosis from 17 to 26. He was C. diff positive and started
   on flagyl on [**2166-5-7**] with improvement in his diarrhea. He was initially
   stated on flagyl, but started on PO vanc on the day of ICU transfer.
   Now with worsening abdominal distention, although this could be from
   massive fluid overload.
   - cont vanc enemas + IV flagyl and cont for until has completed other
   antibiotics then for an additional 14d
   - transduce bladder pressure serially
   .
   # Atrial Fibrillation
   Patient was diagnosed with atrial fibrillation at the OSH and was
   started on diltiazem before being transitioned to amiodarone. Upon
   transfer to [**Hospital1 5**], his PICC line was noted to be advanced into the
   right atrium, and it was thought that this may have been triggering his
   atrial fibrillation. During his hospitalization at [**Hospital1 5**], he remained
   in sinus rhythm and with excellent rate control. His chart says that
   his amioderone was discontinued, but currently ordered.
   - amiodarone redosed to gtt given inability to administer PO meds;
   after 1 week will need to redose
   - while had a CHADS score of 3, hold anticoagulation in the setting of
   active bleed.
   .
   # Hyperglycemia
   He was started on insulin during his hospitalization at [**Hospital3 1011**] and was continued on insulin during his hospitalization at
   [**Hospital1 5**]. [**Month (only) 8**] be the result of pancreatic insufficiency with pancreatitis
   vs. a new diagnosis of DM.
   - cont HISS
   - adjust insulin in TPN
   .
   # Hepatic Cirrhosis
   Imaging from abdominal CT and MRCP revealed hepatic cirrhosis, although
   patient has no history of this in the past. The hepatology team was
   consulted, and the felt no evidence of hepatic cirrhosis.  They
   recommended a liver biopsy, but overall felt that ascites more
   secondary to pancreatitis.  Hepatitis serologies were sent and were
   unremarkable.
   .
   # Family Contact
   Patient's family contact is the patient's niece [**Name (NI) 12548**] [**Name (NI) 12549**]. Her
   home number is ([**Telephone/Fax (1) 12550**]; work number is ([**Telephone/Fax (1) 12551**]; cell number
   is ([**Telephone/Fax (1) 12552**]..
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: pboots
   Access: PICC
   Code:  Full
   Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2166-5-17**] 01:09 AM 62 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-15**] 12:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 12690**]
s note above
   and agree with his findings and plan of care.  Mr [**Known lastname 12624**] is a
   previously healthy elderly man with severe pancreatitis, psedocysts,
   pseudoanerysm, s/p PEA arrest with CPR for 25min, renal failure, resp
   failure, hypotension on pressors, severe ongoing leukocytosis, and
   obtundation despite our stopping sedatives.
   His obtundation is likely multifactorial. He did respond to commands
   shortly after being resuscitated, so I doubt anoxic encephalopathy
   explains it all. But this CNS insult, plus his age and renal failure
   and the SIRS state from pancreatitis may well be enough to keep him
   obtunded. His obtundation is contributing to his being on the vent
   still, as is his tense abdomen and acidosis and fluid overload.  His
   renal failure is likely from both his CP Arrest and pancreatitis.
   His prognosis is obviously not good, given the co-morbidities of great
   severity.  Goals of care are to be addressed by his neice who is his
   health care proxy, and another relative who is a physician. [**Name10 (NameIs) **] the
   desire is to continue
aggressive
 care, then he will need CNS imaging
   in addition to the EEG the results of which are pending. He will also
   need consideration of CVHD by renal in an effort to get off fluid,
   correct hyponatremia, and improve mental status.  His pseudocysts are
   very large and he remains on broad spectrum antibiotics. Surgery
   following and we
ll discuss with them if any intervention is in order,
   which I doubt.
   If, however, goals of care are desired by family to be directed toward
   comfort, we are prepared to move in that direction as well.
   50min spent in the care of this complex and critically ill patient.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2166-5-17**] 03:22 PM ------

2166-05-18 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EEG: encephalopathic.
   - ID: switched to Aztreonam, Ciprofloxacin; d/c zosyn due to rash;
   repeat sputum culture
   - Urine lytes: FeNa is 4.8%, not pre-renal.
   - ERCP: hold off.
   - spoke to family, hold the course for CVVH.
   - had BMs overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2166-5-16**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2166-5-17**] 12:07 PM
   Ciprofloxacin - [**2166-5-17**] 05:11 PM
   Aztreonam - [**2166-5-17**] 09:00 PM
   Metronidazole - [**2166-5-18**] 02:00 AM
   Vancomycin - [**2166-5-18**] 02:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-5-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-18**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.3
   HR: 97 (94 - 102) bpm
   BP: 138/49(74) {97/40(57) - 138/96(99)} mmHg
   RR: 26 (0 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.2 kg (admission): 110 kg
   Height: 72 Inch
    CVP: 10 (10 - 10)mmHg
   Bladder pressure: 12 (12 - 14) mmHg
   Total In:
                                                                  3,284 mL
                                                                    946 mL
   PO:
   TF:
   IVF:
                                                                  1,734 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                  1,661 mL
                                                                    615 mL
   Urine:
                                                                    986 mL
                                                                    115 mL
   NG:
                                                                    525 mL
   Stool:
                                                                    150 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,623 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 12.1 L/min
   Physical Examination
   General Appearance: anasarca, intubated, unresponsive (not on
   sedation), occ grimace to pain
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   CV: RRR
   RESP: rhonchorous throughout, diminished BS at bases bilaterally
   ABD: tense, distended, pitting edema, no appreciable BS
   EXT: 2+ pitting edema bilaterally
   DERM: diffuse, confluent maculopapular rash, worsened in severity,
   across trunk, arms, and proximal legs
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Labs / Radiology
   354 K/uL
   7.9 g/dL
   112 mg/dL
   4.9 mg/dL
   19 mEq/L
   5.1 mEq/L
   98 mg/dL
   103 mEq/L
   133 mEq/L
   24.7 %
   36.8 K/uL
        [image002.jpg]
                             [**2166-5-15**]  01:57 PM
                             [**2166-5-15**]  08:54 PM
                             [**2166-5-15**]  10:26 PM
                             [**2166-5-16**]  03:45 AM
                             [**2166-5-16**]  04:08 AM
                             [**2166-5-16**]  08:56 PM
                             [**2166-5-17**]  03:08 AM
                             [**2166-5-17**]  04:40 AM
                             [**2166-5-17**]  03:45 PM
                             [**2166-5-18**]  04:45 AM
   WBC
   24.7
   28.9
   36.8
   Hct
   24.6
   25.8
   28.0
   24.7
   Plt
   [**Telephone/Fax (3) 12704**]
   Cr
   4.3
   4.5
   4.6
   4.8
   4.7
   4.9
   TCO2
   20
   19
   19
   19
   Glucose
   157
   136
   99
   107
   113
   112
   Other labs: PT / PTT / INR:17.7/34.3/1.6, CK / CKMB /
   Troponin-T:25/2/0.02, ALT / AST:[**10-30**], Alk Phos / T Bili:116/2.1,
   Amylase / Lipase:/116, Differential-Neuts:88.2 %, Band:0.0 %, Lymph:2.6
   %, Mono:5.3 %, Eos:3.6 %, Lactic Acid:1.8 mmol/L, Albumin:1.8 g/dL,
   LDH:364 IU/L, Ca++:7.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   83 y/o male with history of BPH was transferred from an OSH for
   evaluation of pancreatitis. Evaluation was notable for large pancreatic
   pseudocyst with multiple intra-abdominal fluid collections thought
   related to his pseudocyst. His course is complicated by GDA
   pseudoaneurysm hemorrhage into a pseudocyst, requiring IR guided
   embolization.
   .
   # Acute Renal Failure
   During his admission at the OSH, his creatinine was as high as 1.9 and
   then remained stable between .[**8-31**].  Creatinine started trending up in
   the last 48hrs, and was given one dose of lasix on the floor, with Cr
   rise to 1.2.  He was given mucomyst and NaHCO3 with the anticipation of
   contrast from IR procedure.  Given that patient was pulseless for 10
   minutes, potential for ATN.  Urine lytes consistent with intrarenal
   process, Eos negative but their NPV is ~ 16%.  Worsening today,
   uptrending daily.
   - UOP improved today on lasix, but Cr still rising, worsening
   hyponatremia
   - monitor lytes [**Hospital1 **]; trend Cr
   - avoid nephrotoxic meds
   - per prior discussion, family amenable to CRRT
 reconfirm
   - f/u renal recs re: when to start CRRT (goals of care)
   - check pm lytes
   .
   # Unresponsiveness S/p PEA arrest:  Unclear precipitant.  No
   hypoglycemia on the scene, and no e/o hypo/hyperkalemia.  Cardiac
   enzymes and CTA chest were negative.  The patient was noted to be
   hypoxic leading up to the event.  Still unresponsive after
   discontinuation of midazolam for sedation.  DDx includes sedation
   (impaired renal clearance), uremia, structural defect (i.e. stroke),
   seizure, metabolic (i.e. hyponatremia).
   - f/u EEG resuls to r/o epileptiform activity --> prelim is
   encephalopathy
   - hold on head imaging for now
   - continue to reassess mental status s/p withdrawal of midazolam this
   AM
   .
   # Pancreatititis, Pancreatic Pseudocysts, Intra-abdominal fluid
   Collections: On ERCP, patient was found to have bile duct filling
   defect, suggestive of external compression. He underwent follow-up EUS
   which revealed a large pancreatic pseudocyst. CTA Pancreas was also
   performed, which confirmed the large pseudocysts but also noted
   multiple large abdominal fluid collections. He was evaluated by general
   surgery, who thought his abdominal process of pancreatic pseudocyst and
   associated inflammation was relatively immature, and that surgical
   intervention or drainage at this time was not indicated. They
   recommended that the patient continue to be NPO, continue nutrition
   with TPN, and then follow-up in [**5-6**] weeks with repeat imaging and
   clinic follow-up for consideration of surgical intervention at that
   time.  Now s/p IR-guided embolization of GDA pseudoaneurysm, which
   appeared to have hemorrhaged into a pseudocyst. Worsening leukocytosis
    - was on meropenem; switched to Zosyn per ID recs and later to
   Aztreonam/Cipro
   - ID recs
   - f/u pending blood and urine cultures.
   - CT shows e/o new pseudocyst, may contribute to abdominal distention
   - f/u general surgery recs
   - trend Hct
   .
   # aspiration +/- PNA
 as seen on CT chest
   - continue intubation and wean as tolerated
   - currently on Aztreonam/Cipro
   .
   # abdominal rash
 Continues to spread.  Thought to be drug-induced,
   with the most likely suspect being abx.  Both vancomycin and meropenem
   have been d/ced since development of rash.
   - continue to monitor
   .
   # Clostridium difficile infection:
   Within 48 hours of admission, patient developed increased diarrhea and
   marked leukocytosis from 17 to 26. He was C. diff positive and started
   on flagyl on [**2166-5-7**] with improvement in his diarrhea. He as initially
   stated on flagyl, but started on PO vanc on the day of ICU transfer.
   Now with worsening abdominal distention, although this could be from
   massive fluid overload.
   - cont vanc enemas + IV flagyl and cont for until has completed other
   antibiotics then for an additional 14d
   - transduce bladder pressure serially
   .
   # Atrial Fibrillation
   Patient was diagnosed with atrial fibrillation at the OSH and was
   started on diltiazem before being transitioned to amiodarone. Upon
   transfer to [**Hospital1 5**], his PICC line was noted to be advanced into the
   right atrium, and it was thought that this may have been triggering his
   atrial fibrillation. During his hospitalization at [**Hospital1 5**], he remained
   in sinus rhythm and with excellent rate control. His chart says that
   his amioderone was discontinued, but currently ordered.
   - amiodarone redosed to gtt given inability to administer PO meds;
   after 1 week will need to redose
   - while had a CHADS score of 3, hold anticoagulation in the setting of
   active bleed.
   .
   # Hyperglycemia
   He was started on insulin during his hospitalization at [**Hospital3 1011**] and was continued on insulin during his hospitalization at
   [**Hospital1 5**]. [**Month (only) 8**] be the result of pancreatic insufficiency with pancreatitis
   vs. a new diagnosis of DM.
   - cont HISS
   - adjust insulin in TPN
   .
   # Hepatic Cirrhosis
   Imaging from abdominal CT and MRCP revealed hepatic cirrhosis, although
   patient has no history of this in the past. The hepatology team was
   consulted, and the felt no evidence of hepatic cirrhosis.  They
   recommended a liver biopsy, but overall felt that ascites more
   secondary to pancreatitis.  Hepatitis serologies were sent and were
   unremarkable.
   .
   Family Contact
   Patient's family contact is the patient's niece [**Name (NI) 12548**] [**Name (NI) 12549**]. Her
   home number is ([**Telephone/Fax (1) 12550**]; work number is ([**Telephone/Fax (1) 12551**]; cell number
   is ([**Telephone/Fax (1) 12552**]..
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: pboots
   Access: PICC
   Code:  Full
   Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2166-5-18**] 06:04 AM 63 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2166-5-12**] 02:48 AM
   Arterial Line - [**2166-5-15**] 12:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined Mr [**Name13 (STitle) 12709**] and was present for the key
   portion of the services provided.  I have reviewed Dr [**Last Name (STitle) **]
s note
   above and agree with his findings and plan of care.  Unfortunately the
   patient continues with a multiplicity of severe medical problems:
   pancreatitis with pseudocyst formation, Resp Failure, Renal Failure,
   s/p PEA arrest, fevers and severe leukocytosis, Cdiff, hypotension
   requiring pressors, and obtundation despite no sedatives for several
   days.  Given his extremely limited prognosis,  renal service is
   understandably reluctant to commence CVVH. we hope to have a candid
   goals of care discussion with the family today.
   40min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2166-5-18**] 01:26 PM ------